US06320050B1
A solution of triphenylphosphine (97 mg, 0.371 mmol) in methylene chloride (1.5 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (66 mg, 0.371 mmol). The reaction mixture was stirred at 0° C. for 20 min and then treated with 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid (100 mg, 0.285 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min, allowed to warm to 25° C., and then treated with ethyl 2-amino-4-thiazoleacetate (123 mg, 0.657 mmol). The resulting reaction mixture was stirred at 25° C. for 3 d. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded {2-[3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)-propionyl-amino]-thiazol-4-yl}-acetic acid ethyl ester (107 mg, 72%) as a yellow foam: mp 48-51° C.; EI-HRMS m/e calcd for C22H25F3N2O5S2 (M+) 518.1157, found 518.1157.

reactant | triphenylphosphine | 0.371 mmol, 97 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.371 mmol, 66 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)propionic acid | 0.285 mmol, 100 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C15H17F3O4S
reactant | ethyl 2-amino-4-thiazoleacetate | 0.657 mmol, 123 mg | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | {2-[3-cyclopentyl-2-(4-trifluoromethanesulfonyl-phenyl)-propionyl-amino]-thiazol-4-yl}-acetic acid ethyl ester | 107 mg, 72% | C(C)OC(CC=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O)=O | C22H25F3N2O5S2
